US06281357B1
(d) (R)-5-Bromo-3-(1-methyl-2-pyrrolidinylmethyl)-1-tosyl-1H-indole
To a stirred solution of (R)-5-bromo-3-(1-methyl-2-pyrrolidinylmethyl)-1H-indole (10.0 g, 34.1 mmol) in ethyleneglycol dimethylether (50 ml) at 0° C. under a nitrogen atmosphere was added potassium hydroxide flake (9.58 g, 171 mmol) in one portion. Para-toluenesulfonyl chloride (6.83 g, 35.8 mmol) was then added portionwise to the brown slurry over a 5 min period, maintaining the temperature below 5° C. The brown slurry was then warmed to ambient temperature and stirred for a further 2 hr. The mixture was then filtered in vacuo and the filter cake washed with toluene (2×100 ml). The filtrate was then concentrated in vacuo to approximately 20 ml volume which resulted in precipitation of a cream solid. After stirring for 2 hr, the solid was filtered and dried in vacuo at 50° C. for 12 hr to give the title compound (9.91 g, 65%) as a beige solid. m.p. 98-104° C.

reactant | (R)-5-bromo-3-(1-methyl-2-pyrrolidinylmethyl)-1H-indole | 34.1 mmol, 10.0 g | BrC=1C=C2C(=CNC2=CC1)C[C@@H]1N(CCC1)C | C14H17BrN2
reactant | potassium hydroxide | [OH-].[K+]
reactant | Para-toluenesulfonyl chloride | 35.8 mmol, 6.83 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | ethyleneglycol dimethylether | 50 ml | COCCOC | C4H10O2
product | (R)-5-Bromo-3-(1-methyl-2-pyrrolidinylmethyl)-1-tosyl-1H-indole | 9.91 g, 65% | BrC=1C=C2C(=CN(C2=CC1)S(=O)(=O)C1=CC=C(C)C=C1)C[C@@H]1N(CCC1)C | C21H23BrN2O2S
